US07566788B2
N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide (210 mg) was dissolved in methyl iso-butyl ketone (2.1 ml). A solution was made of ethansulphonic acid (43.7 μl) and methyl iso-butyl ketone (1.0 ml). The methyl iso-butyl ketone/ethane sulphonic acid solution was added in a controlled manner over three hours. Thus, initially, to the base solution was added 2×20 μl acid solution. Then after 30 minutes three more additions were made (3×20 μl). Approximately 20 minutes later three additions of 40 μl acid solution was made and after 40 minutes 400 μl was added. Finally, 20 minutes later the remaining amount of acid solution was added. The resulting slurry was left 2.5 days with stirring before it was filtered off and washed with methyl iso-butyl ketone (2×200 μl). The product was dried at 40° C. under vacuum yielding 227 mg crystalline N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide esylate salt. (yield 85%)

reactant | N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide | 210 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NS(=O)(=O)CC | C20H29F2N3O2S
reactant | ethansulphonic acid | 43.7 μl | C(C)S(=O)(=O)O | C2H6O3S
reactant | methyl iso-butyl ketone ethane sulphonic acid | C(C(C)C)C(=O)C.C(C)S(=O)(=O)O
solvent | methyl iso-butyl ketone | 2.1 ml | C(C(C)C)C(=O)C | C6H12O
solvent | methyl iso-butyl ketone | 1.0 ml | C(C(C)C)C(=O)C | C6H12O
product | N-{2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide esylate salt | 227 mg, yield 85% | S(=O)(=O)(O)CC.C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NS(=O)(=O)CC | InChI=1S/C20H29F2N3O2S.C2H6O3S/c1-5-28(26,27)24-15-6-7-17-16(12-15)23-18(19(2,3)4)25(17)13-14-8-10-20(21,22)11-9-14;1-2-6(3,4)5/h6-7,12,14,24H,5,8-11,13H2,1-4H3;2H2,1H3,(H,3,4,5)
